US07763731B2
N-[4-(4-Chloro-2-nitro-phenoxy)-phenyl]-acetamide
A mixture of 2-Fluoro-5-Chloro Nitro benzene (0.5 g, 2.85 mmol), 4-Acetamidophenol (0.45 g, 3.00 mmol) and cesium carbonate (0.98 g, 3.00 mmol) in DMSO (5 mL) was heated 6 hr at 90° C. The mixture was cooled, diluted with ethyl acetate (100 mL) and the organic layer washed with water, 20% aqueous potassium hydroxide solution and aqueous 10% sodium chloride solution, then dried over anhydrous sodium sulfate. The drying agent was filtered and the solvent concentrated under vacuum leaving the title compound as a tan solid (0.71 g, 81%).

reactant | 2-Fluoro-5-Chloro Nitro benzene | 2.85 mmol, 0.5 g | FC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3ClFNO2
reactant | 4-Acetamidophenol | 3.00 mmol, 0.45 g | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | cesium carbonate | 3.00 mmol, 0.98 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-[4-(4-Chloro-2-nitro-phenoxy)-phenyl]-acetamide | 0.71 g, 81% | ClC1=CC(=C(OC2=CC=C(C=C2)NC(C)=O)C=C1)[N+](=O)[O-] | C14H11ClN2O4
